US07842685B2
To a mixture of methyl 1-((3-fluoro-4-(5-(1-phenylcyclopent-3-enyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate (0.333 g, 0.667 mmol) and 10% Pd/C, 50% water (0.355 g, 0.333 mmol) under nitrogen was added 5 mL MeOH and 5 mL THF. The resulting mixture was stirred rapidly under an H2 balloon for 4 h. The reaction mixture was flushed with nitrogen, filtered, rinsing with DCM, and concentrated in vacuo. The resulting oil was purified by silica gel chromatography, ISCO 0-100% EA/hexanes, to give methyl 1-((3-fluoro-4-(5-(1-phenylcyclopentyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate as a clear and colorless oil. MS (ESI) m/z: Calculated: 501.2; Observed: 502.1 (M++1).

reactant | methyl 1-((3-fluoro-4-(5-(1-phenylcyclopent-3-enyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate | 0.667 mmol, 0.333 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC=CC1)C1=CC=CC=C1)CN1CC(C1)C(=O)OC | C29H26FN3O2S
reactant | water | 0.333 mmol, 0.355 g | O | H2O
reactant | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl 1-((3-fluoro-4-(5-(1-phenylcyclopentyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CCCC1)C1=CC=CC=C1)CN1CC(C1)C(=O)OC | C29H28FN3O2S
